US05861369
Synthesis of (2--Carboxy--3--hydroxybutyl) iminodiacetic acid 13.3 g.
(0.1 mole) of iminodiacetic acid were suspended in 100 ml. of water and neutralized with sodium hydroxide to pH=10-12. 14.4 g (0.1 mole) ethyl----2--(1--hydroxyethyl)propenoate was added and the pH was maintained at 10-12 by further addition of sodium hydroxide. The reaction mixture was stirred at 80°C for 20 hours and then cooled at room temperature and acidified to pH=2. The solvent was distilled under reduced pressure to one-third of the weight of the solution and sodium chloride was filtered off. The filtrate was poured in 400 ml. of methanol/acetone (50/50) and the precipitate was washed with acetone and dried in vacuum to 12.3 g of a white powder. The yield was 49% of theoretical.

reactant | iminodiacetic acid | 0.1 mole | N(CC(=O)O)CC(=O)O | C4H7NO4
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2--(1--hydroxyethyl)propenoate | OC(C)C(C(=O)[O-])=C
solvent | water | O | H2O
product | (2--Carboxy--3--hydroxybutyl) iminodiacetic acid | yield was 49% | C(=O)(O)C(CN(CC(=O)O)CC(=O)O)C(C)O | C9H15NO7
